US06358980B1
2-[(2-Hydroxy-ethyl)-(4-methyl-benzyl)-amino]-ethanol was prepared according to the general method as outlined in Example 1 (Step 4). Starting from diethanolamine (4.84 g, 46 mmol) and 4-methylbenzyl bromide (8.5 g, 46 mmol), 8.2 g of the product was isolated. Yield, (85%); white solid; MS: 210.1 (M+H)+

reactant | diethanolamine | 46 mmol, 4.84 g | N(CCO)CCO | C4H11NO2
reactant | 4-methylbenzyl bromide | 46 mmol, 8.5 g | CC1=CC=C(CBr)C=C1 | C8H9Br
product | 2-[(2-Hydroxy-ethyl)-(4-methyl-benzyl)-amino]-ethanol | OCCN(CCO)CC1=CC=C(C=C1)C | C12H19NO2
